US06303600B1
3-methyl-1-{3-(phenyl)propyl}-1 H-indole-6-carboxaldehyde
Dimethylsulphoxide (0.311 g) was added to a stirring solution of oxalyl chloride in dichloromethane (1 ml, 2M) in dichloromethane (25 ml) at −60° C. under argon and the mixture was stirred for 2 minutes. A solution of 3-methyl-1-{3-(phenyl)propyl}-1 H-indole-6-methanol in dichloromethane (10 ml) was then added dropwise and the mixture stirred for 15 minutes at −60° C. Triethylamine (0.956 g) was then added and the solution warmed to room temperature and stirred for 1 hour. The mixture was poured into water (20 ml) and then extracted three times with dichloromethane (25 ml). The combined extracts were washed with brine (30 ml), then dried over sodium sulphate and then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and hexane (1:1, v/v) to yield the title compound (0.283 g).

reactant | Dimethylsulphoxide | 0.311 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-1-{3-(phenyl)propyl}-1 H-indole-6-methanol | CC1=CN(C2=CC(=CC=C12)CO)CCCC1=CC=CC=C1 | C19H21NO
reactant | Triethylamine | 0.956 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2M, 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 3-methyl-1-{3-(phenyl)propyl}-1 H-indole-6-carboxaldehyde | 0.283 g | CC1=CN(C2=CC(=CC=C12)C=O)CCCC1=CC=CC=C1 | C19H19NO
